US04175206
36.9 g of sodium glyoxylate, 75 g of ammonium acetate, 81.5 g of pyrogallol and 130 ml of water are treated in the same manner as described in Example 1. 13.3 g of DL-(2,3,4-trihydroxyphenyl)glycine are thereby obtained as crystals. Yield: 20.6% M.p. 198°-203° C. (decomp.).

reactant | sodium glyoxylate | 36.9 g | C(C=O)(=O)[O-].[Na+]
reactant | ammonium acetate | 75 g | C(C)(=O)[O-].[NH4+]
reactant | pyrogallol | 81.5 g | C1(O)=C(O)C(O)=CC=C1 | C6H6O3
solvent | water | 130 ml | O | H2O
product | (2,3,4-trihydroxyphenyl)glycine | Yield: 20.6% | OC1=C(C=CC(=C1O)O)NCC(=O)O | C8H9NO5
